US07932245B2
Ethyl spiro[2.5]octane-1-carboxylate
A 250 mL round-bottom flask was charged with methylenecyclohexane (20.0 g, 0.21 mol, commercially available from Aldrich), copper powder (2.8 g), methyl cyclohexane (50 mL) and heated to 105° C. Ethyl diazoacetate (26 g, 0.23 mol, commercially available from Aldrich) was added dropwise over an 8-hour period while maintaining the temperature between 100-105° C. Upon complete addition, the mixture was heated an additional 2 hours, allowed to cool to ambient temperature and stirred for an additional 12 hours. The reaction mixture was filtered and concentrated under reduced pressure to afford the title compound which was used without further purification.

reactant | methylenecyclohexane | C=C1CCCCC1 | C7H12
reactant | Ethyl diazoacetate | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
catalyst | copper | 2.8 g | [Cu] | Cu
solvent | methyl cyclohexane | 50 mL | CC1CCCCC1 | C7H14
product | Ethyl spiro[2.5]octane-1-carboxylate | C1(CC12CCCCC2)C(=O)OCC | C11H18O2
